US09120757B2
To a stirred solution of 4-(morpholin-4-yl)cyclohexan-1-one (920 mg, 5.02 mmol, 1.00 equiv) in anhydrous tetrahydrofuran (20 mL) maintained under nitrogen at −78° C. was added dropwise a 1M solution of LiHMDS (6 mL) in tetrahydrofuran. After stirring for 1 h at −78° C., a solution of 1,1,1-trifluoro-N-phenyl-N-(trifluoromethane)sulfonylmethanesulfonamide (1.97 g, 5.51 mmol, 1.10 equiv) in tetrahydrofuran (6 mL) was added. The reaction was warmed to room temperature and stirred for 12 h. The resulting solution was concentrated under vacuum and the residue was purified on a silica gel column eluted with 50-100% of ethyl acetate in petroleum ether to give 420 mg (27%) of 4-morpholinocyclohex-1-enyl trifluoromethanesulfonate as a yellow oil. 1H-NMR (300 MHz, CDCl3): δ 5.80-5.70 (m, 1H), 3.90-3.75 (m, 4H), 2.75-2.00 (m, 10H), 1.70-1.50 (m, 1H) ppm.

reactant | 4-(morpholin-4-yl)cyclohexan-1-one | 5.02 mmol, 920 mg, 1.00 equiv | N1(CCOCC1)C1CCC(CC1)=O | C10H17NO2
reactant | LiHMDS | 6 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 1,1,1-trifluoro-N-phenyl-N-(trifluoromethane)sulfonylmethanesulfonamide | 5.51 mmol, 1.97 g, 1.10 equiv | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 4-morpholinocyclohex-1-enyl trifluoromethanesulfonate | 420 mg, 27% | FC(S(=O)(=O)OC1=CCC(CC1)N1CCOCC1)(F)F | C11H16F3NO4S
